US05981573
(3) Preparation of ethyl 5-{(2RS,3RS)-3-amino-2-(4-nitrophenyl)butyl}-2-furancarboxylate
3.66 g of ethyl 5-{(2RS,3SR)-3-hydroxy-2-(4-nitrophenyl)butyl}-2-furancarboxylate in 40 ml of tetrahydrofuran was mixed with 4.32 g of triphenylphosphine, 2.60 ml of diethyl azodicarboxylate and 4.53 g of diphenylphosphoryl azide under cooling with ice under stirring and stirred at room temperature for 18 hours. The reaction solution was evaporated to dryness under reduced pressure, and the residue was purified by silica gel column chromatography [hexane/ethyl acetate=50/1→30/1]. The resulting azide was refluxed together with 2.37 g of triphenylphosphine in 55 ml of 10% hydrous tetrahydrofuran under heating for 6 hours. The reaction solution was cooled to room temperature, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [ethylene chloride/methanol=100/1→20/1] to give 2.89 g of the title compound as a yellow oily substance.

reactant | ethyl 5-{(2RS,3SR)-3-hydroxy-2-(4-nitrophenyl)butyl}-2-furancarboxylate | 3.66 g | OC(C(CC1=CC=C(O1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H19NO6
reactant | triphenylphosphine | 4.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.60 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 4.53 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | ethyl 5-{(2RS,3RS)-3-amino-2-(4-nitrophenyl)butyl}-2-furancarboxylate | 2.89 g | NC(C(CC1=CC=C(O1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H20N2O5
